US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.50 g, 1.4 mmol) and 4-tert-butylbenzoyl chloride (0.28 g, 1.4 mmol) in acetonitrile (30 mL) at 0° C. was added TEA (0.28 g, 2.8 mmol) dropwise over 10 min. The mixture was stirred at ambient temperature for 2 h and then 10% aqueous HCl solution (30 mL) was added. The solid precipitate was filtered, washed with water (30 mL) and dried in vacuo providing 4-tert-butyl-N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide as a white solid (0.54 g, 92% yield); mp 238-240° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 4.89 (99.23%); 1H NMR (DMSO-d6) δ 1.30 (s, 9H, t-butyl), 1.91-2.08 (m, 1H, CHH), 2.27-2.45 (m, 1H, CHH), 2.54-2.67 (m, 1H, CHH), 2.81-3.01 (m, 1H, CHH), 4.30 (d, 1H, CHH), 4.44 (d, 1H, CHH), 4.59 (d, J=5.5 Hz, 2H, CH2 and CHH), 5.10 (dd, 1H, CH), 7.40-7.58 (m, 4H, Ar), 7.69 (d, 1H, Ar), 7.85 (d, J=8.1 Hz, 2H, Ar), 9.08 (t, 1H, NH), 10.99 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.49, 30.92, 31.20, 34.59, 42.63, 47.12, 51.56, 121.95, 122.91, 125.08, 125.35, 126.97, 127.11, 129.17, 130.32, 131.38, 142.36, 144.10, 154.11, 166.12, 167.93, 170.98, 172.85; LCMS: MH=434; Anal. Calcd for C25H27N3O4+3.0H2O: C, 68.41; H, 6.34; N, 9.57. Found: C, 68.54; H, 6.47; N, 9.18.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.4 mmol, 0.50 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 4-tert-butylbenzoyl chloride | 1.4 mmol, 0.28 g | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | HCl | 30 mL | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-tert-butyl-N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide | 0.54 g, 92% yield | C(C)(C)(C)C1=CC=C(C(=O)NCC=2C=C3CN(C(C3=CC2)=O)C2C(NC(CC2)=O)=O)C=C1 | C25H27N3O4
